US06555541B1
2-(3,4-Difluoro-phenylamino)-N-[2-methyl-5-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-phenyl]-acetamide
Prepared according to the procedure of Example 11c) using (3,4-difluoro-phenyl)-[(5-hydroxymethyl-2-methyl-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester and 1-(2-pyrimidyl)piperazine dihydrochloride to give the title compound as a 10 mM solution in dimethyl sulfoxide. An aliquot (30 mL) of this solution was diluted with dimethyl sulfoxide/water (220 mL of a 1:1 mixture) was analysed by HPLC on a 20 mm×3.9 mm Waters Symmetry C8 column, eluting with 30%-95% acetonitrile/ammonium acetate.

reactant | (3,4-difluoro-phenyl)-[(5-hydroxymethyl-2-methyl-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC(NC1=C(C=CC(=C1)CO)C)=O)C1=CC(=C(C=C1)F)F)=O | C21H24F2N2O4
reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-(3,4-Difluoro-phenylamino)-N-[2-methyl-5-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-phenyl]-acetamide | FC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)CN1CCN(CC1)C1=NC=CC=N1)C | C24H26F2N6O
